US07585885B2
5-(Methanesulfonyl-methylamino)-N-methyl-N-propyl-isophthalamic acid methyl ester
Mix 5-methanesulfonylamino-N-methyl-N-propyl-isophthalamic acid methyl ester (2.09 g, 6.36 mmol), iodomethane (1.35 g, 9.55 mmol), potassium carbonate (1.38 g, 10 mmol), and tetrabutylammonium bromide (206 mg, 0.64 mmol) in DMF (10 mL) at room temperature for 30 min. Dilute with ethyl acetate and wash with 10% aqueous potassium carbonate, 1 N lithium chloride and saturated aqueous sodium chloride. Dry (magnesium sulfate), concentrate and purify (silica gel chromatography, eluting with 0:100 to 40:60 ethyl acetate:dichloromethane) to give the title compound as an oil.

reactant | 5-methanesulfonylamino-N-methyl-N-propyl-isophthalamic acid methyl ester | 6.36 mmol, 2.09 g | COC(C1=CC(C(=O)N(CCC)C)=CC(=C1)NS(=O)(=O)C)=O | C14H20N2O5S
reactant | iodomethane | 9.55 mmol, 1.35 g | IC | CH3I
reactant | potassium carbonate | 10 mmol, 1.38 g | C([O-])([O-])=O.[K+].[K+]
catalyst | tetrabutylammonium bromide | 0.64 mmol, 206 mg | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-(Methanesulfonyl-methylamino)-N-methyl-N-propyl-isophthalamic acid methyl ester | COC(C1=CC(C(=O)N(CCC)C)=CC(=C1)N(C)S(=O)(=O)C)=O | C15H22N2O5S
